************************************************************************
.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.PARAM

.SUBCKT TransmissionGate IN OUT S SB VDD VSS
MP0 IN SB OUT VDD slvtpfet w=1.2u l=0.03u nf=3.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN1 IN S OUT VSS slvtnfet w=0.6u l=0.03u nf=3.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT Inverter1 IN OUT VDD VSS
MP0 OUT IN VDD VDD slvtpfet w=2.0u l=0.03u nf=5.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN0 OUT IN VSS VSS slvtnfet w=1.0u l=0.03u nf=5.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT Inverter2 IN OUT VDD VSS
MP0 OUT IN VDD VDD slvtpfet w=4.0u l=0.03u nf=10.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN0 OUT IN VSS VSS slvtnfet w=2.0u l=0.03u nf=10.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT D_FF CLK CLKb D Q Qb VDD VSS
XI8 Q Qb VDD VSS / Inverter2
XI9 net14 Q VDD VSS / Inverter2
XI12 Qb net14 CLKb CLK VDD VSS / TransmissionGate
XI5 net13 net14 CLK CLKb VDD VSS / TransmissionGate
XI11 net16 net11 CLK CLKb VDD VSS / TransmissionGate
XI3 D net11 CLKb CLK VDD VSS / TransmissionGate
XI2 net13 net16 VDD VSS / Inverter1
XI1 net11 net13 VDD VSS / Inverter1
.ENDS


.SUBCKT Shift_Register VDD VSS CLK CLKb D Q<0> Qb<0> Q<1> Qb<1> Q<2> Qb<2> Q<3> Qb<3> Q<4> Qb<4> Q<5> Qb<5> Q<6> Qb<6> Q<7> Qb<7> Q<8> Qb<8> Q<9> Qb<9> Q<10> Qb<10> Q<11> Qb<11> Q<12> Qb<12> Q<13> Qb<13> Q<14> Qb<14> Q<15> Qb<15> Q<16> Qb<16> Q<17> Qb<17> Q<18> Qb<18> Q<19> Qb<19> Q<20> Qb<20> Q<21> Qb<21> Q<22> Qb<22> Q<23> Qb<23> Q<24> Qb<24> Q<25> Qb<25> Q<26> Qb<26> Q<27> Qb<27> Q<28> Qb<28> Q<29> Qb<29> Q<30> Qb<30> Q<31> Qb<31> Q<32> Qb<32> Q<33> Qb<33> Q<34> Qb<34> Q<35> Qb<35> Q<36> Qb<36> Q<37> Qb<37> Q<38> Qb<38> Q<39> Qb<39> Q<40> Qb<40> Q<41> Qb<41> Q<42> Qb<42> Q<43> Qb<43> Q<44> Qb<44> Q<45> Qb<45> Q<46> Qb<46> Q<47> Qb<47> Q<48> Qb<48> 
XI49 CLK CLKb Q<47> Q<48> Qb<48> VDD VSS / D_FF
XI48 CLK CLKb Q<46> Q<47> Qb<47> VDD VSS / D_FF
XI47 CLK CLKb Q<45> Q<46> Qb<46> VDD VSS / D_FF
XI46 CLK CLKb Q<44> Q<45> Qb<45> VDD VSS / D_FF
XI45 CLK CLKb Q<43> Q<44> Qb<44> VDD VSS / D_FF
XI44 CLK CLKb Q<42> Q<43> Qb<43> VDD VSS / D_FF
XI43 CLK CLKb Q<41> Q<42> Qb<42> VDD VSS / D_FF
XI42 CLK CLKb Q<40> Q<41> Qb<41> VDD VSS / D_FF
XI41 CLK CLKb Q<39> Q<40> Qb<40> VDD VSS / D_FF
XI40 CLK CLKb Q<38> Q<39> Qb<39> VDD VSS / D_FF
XI39 CLK CLKb Q<37> Q<38> Qb<38> VDD VSS / D_FF
XI38 CLK CLKb Q<36> Q<37> Qb<37> VDD VSS / D_FF
XI37 CLK CLKb Q<35> Q<36> Qb<36> VDD VSS / D_FF
XI36 CLK CLKb Q<34> Q<35> Qb<35> VDD VSS / D_FF
XI35 CLK CLKb Q<33> Q<34> Qb<34> VDD VSS / D_FF
XI34 CLK CLKb Q<32> Q<33> Qb<33> VDD VSS / D_FF
XI33 CLK CLKb Q<31> Q<32> Qb<32> VDD VSS / D_FF
XI32 CLK CLKb Q<30> Q<31> Qb<31> VDD VSS / D_FF
XI31 CLK CLKb Q<29> Q<30> Qb<30> VDD VSS / D_FF
XI30 CLK CLKb Q<28> Q<29> Qb<29> VDD VSS / D_FF
XI29 CLK CLKb Q<27> Q<28> Qb<28> VDD VSS / D_FF
XI28 CLK CLKb Q<26> Q<27> Qb<27> VDD VSS / D_FF
XI27 CLK CLKb Q<25> Q<26> Qb<26> VDD VSS / D_FF
XI26 CLK CLKb Q<24> Q<25> Qb<25> VDD VSS / D_FF
XI25 CLK CLKb Q<23> Q<24> Qb<24> VDD VSS / D_FF
XI24 CLK CLKb Q<22> Q<23> Qb<23> VDD VSS / D_FF
XI23 CLK CLKb Q<21> Q<22> Qb<22> VDD VSS / D_FF
XI22 CLK CLKb Q<20> Q<21> Qb<21> VDD VSS / D_FF
XI21 CLK CLKb Q<19> Q<20> Qb<20> VDD VSS / D_FF
XI20 CLK CLKb Q<18> Q<19> Qb<19> VDD VSS / D_FF
XI19 CLK CLKb Q<17> Q<18> Qb<18> VDD VSS / D_FF
XI18 CLK CLKb Q<16> Q<17> Qb<17> VDD VSS / D_FF
XI17 CLK CLKb Q<15> Q<16> Qb<16> VDD VSS / D_FF
XI16 CLK CLKb Q<14> Q<15> Qb<15> VDD VSS / D_FF
XI15 CLK CLKb Q<13> Q<14> Qb<14> VDD VSS / D_FF
XI14 CLK CLKb Q<12> Q<13> Qb<13> VDD VSS / D_FF
XI13 CLK CLKb Q<11> Q<12> Qb<12> VDD VSS / D_FF
XI12 CLK CLKb Q<10> Q<11> Qb<11> VDD VSS / D_FF
XI11 CLK CLKb Q<9> Q<10> Qb<10> VDD VSS / D_FF
XI10 CLK CLKb Q<8> Q<9> Qb<9> VDD VSS / D_FF
XI9 CLK CLKb Q<7> Q<8> Qb<8> VDD VSS / D_FF
XI8 CLK CLKb Q<6> Q<7> Qb<7> VDD VSS / D_FF
XI7 CLK CLKb Q<5> Q<6> Qb<6> VDD VSS / D_FF
XI6 CLK CLKb Q<4> Q<5> Qb<5> VDD VSS / D_FF
XI5 CLK CLKb Q<3> Q<4> Qb<4> VDD VSS / D_FF
XI4 CLK CLKb Q<2> Q<3> Qb<3> VDD VSS / D_FF
XI3 CLK CLKb Q<1> Q<2> Qb<2> VDD VSS / D_FF
XI2 CLK CLKb Q<0> Q<1> Qb<1> VDD VSS / D_FF
XI1 CLK CLKb D Q<0> Qb<0> VDD VSS / D_FF
.ENDS
